US07935830B2
Step E. N-tert-Butylcarbamate-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole
Di-tert-butyl dicarbonate (2.0 g, 9.4 mmol) and sodium hydrogen carbonate (4.0 g, 47 mmol) were added to a solution of 1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole (1.5 g, 9.4 mmol) in H2O/THF (46 mL, 1/1, v/v), and stirred overnight at room temperature. The reaction mixture was diluted with H2O (50 mL), and extracted with EtOAc (3×100 mL). The combined organic extracts were dried over MgSO4 and concentrated. The crude products (mixture of regioisomers) were purified and separated by column chromatography (SiO2) using a 0-35% ethyl acetate-hexanes gradient to afford 110 mg (5% yield-5 steps) of the subtitle compound. MS calculated for C16H21NO2+H: 260, observed: 260.

reactant | Di-tert-butyl dicarbonate | 9.4 mmol, 2.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogen carbonate | 47 mmol, 4.0 g | C(O)([O-])=O.[Na+]
reactant | 1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | 9.4 mmol, 1.5 g | C1C2C(CN1)C=1C=CC=CC1C2 | C11H13N
solvent | H2O THF | O.C1CCOC1
solvent | H2O | 50 mL | O | H2O
product | N-tert-Butylcarbamate 1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | 5% yield | C(C)(C)(C)NC([O-])=O.C1C2C(CN1)C=1C=CC=CC1C2 | InChI=1S/C11H13N.C5H11NO2/c1-2-4-10-8(3-1)5-9-6-12-7-11(9)10;1-5(2,3)6-4(7)8/h1-4,9,11-12H,5-7H2;6H,1-3H3,(H,7,8)/p-1
